US06645957B2
Preparation of 1,4-bis(1-Piperazinyl)benzene
Trifluoroacetic acid (1 ml) was added to a solution in methylene chloride (1 ml) of 1,4-bis(4-tert-butoxycarbonyl-1-piperazinyl)benzene (59 mg; 0.13 mmol) synthesized by the above process under ice cooling, and the mixture was stirred for 30 minutes. The reaction mixture was then concentrated under reduced pressure, and the resultant concentrated residue (81 mg) was dissolved in methanol-chloroform (1:2). The solution was applied to a column packed with alumina (3 g), and the column was eluted with methanol-chloroform (1:2). The eluate was concentrated under reduced pressure, thereby obtaining 31 mg (yield: 88%) of the title compound as a colorless oil.

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,4-bis(4-tert-butoxycarbonyl-1-piperazinyl)benzene | 0.13 mmol, 59 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C24H38N4O4
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1,4-bis(1-Piperazinyl)benzene | 31 mg, yield: 88% | N1(CCNCC1)C1=CC=C(C=C1)N1CCNCC1 | C14H22N4
